US08735322B2
The iodonium ylide (477 mg, 1.19 mmol) prepared in Step 3a is added to a mixture of 2,6-diethyl-4-methylphenylboronic acid (343 mg, 1.79 mmol), tetrabutylammonium bromide (385 mg, 1.19 mmol), lithium hydroxide monohydrate (151 mg, 3.57 mmol) and palladium (II) acetate (13 mgs) in a mixture of 1,2-dimethoxyethane (10.8 ml) and water (2.7 ml) and the reaction mixture is heated at 55° C. for 5 hours. The reaction is then cooled, dilute aqueous hydrochloric acid is added, and the mixture is extracted with ethyl acetate. The organic extracts are combined, washed with water, dried over anhydrous magnesium sulfate, filtered and the filtrate is concentrated in vacuo. The residue is purified by column chromatography on silica gel to give 2-(2,6-diethyl-4-methylphenyl)-5-([1,3]dioxolan-2-ylmethyl)cyclohexane-1,3-dione

reactant | iodonium | [IH2+]
reactant | 2,6-diethyl-4-methylphenylboronic acid | 1.79 mmol, 343 mg | C(C)C1=C(C(=CC(=C1)C)CC)B(O)O | C11H17BO2
reactant | lithium hydroxide monohydrate | 3.57 mmol, 151 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
reactant | 1,2-dimethoxyethane | 10.8 ml | COCCOC | C4H10O2
catalyst | tetrabutylammonium bromide | 1.19 mmol, 385 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 2.7 ml | O | H2O
catalyst | palladium (II) acetate | 13 mgs | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2,6-diethyl-4-methylphenyl)-5-([1,3]dioxolan-2-ylmethyl)cyclohexane-1,3-dione | C(C)C1=C(C(=CC(=C1)C)CC)C1C(CC(CC1=O)CC1OCCO1)=O | C21H28O4
